US07642264B2
To a solution of 2,4-dichloro-6-(4-chloro-phenyl)-pyrimidine (2.6 g, 10.0 mmol) and tetrakis(triphenylphosphine)palladium (0.69 g, 0.6 mmol) in THF (10 mL) was added at 20° C. a 0.25 M cyclopropylzinc chloride/THF solution (120 mL, 30 mmol; freshly prepared by stirring a mixture of 60 mL of 0.5 M cyclopropylmagnesium bromide/THF and 60 mL of 0.5 M zinc chloride/THF for 1 h at 0° C., followed by 1 h at 20° C.) and the mixture was refluxed in an atmosphere of argon for 3 h. After the slow addition of sat. aqueous NH4Cl solution (20 mL) at 0° C. the mixture was partitioned between AcOEt and 10% sodium chloride solution. The organic layer was dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed on silica gel using AcOEt/cyclohexane (1:19 v/v) as eluent to give 2-chloro-4-(4-chloro-phenyl)-6-cyclopropyl-pyrimidine (1.12 g, 42%) as a light yellow solid. MS (ISP) 265.1 [(M+H)+]; mp 70-72° C.

reactant | 2,4-dichloro-6-(4-chloro-phenyl)-pyrimidine | 10.0 mmol, 2.6 g | ClC1=NC(=CC(=N1)Cl)C1=CC=C(C=C1)Cl | C10H5Cl3N2
reactant | cyclopropylzinc chloride THF | 0.25 M | [Cl-].C1(CC1)[Zn+].C1CCOC1
reactant | cyclopropylmagnesium bromide THF | 0.5 M, 60 mL | C1(CC1)[Mg]Br.C1CCOC1
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.6 mmol, 0.69 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc chloride THF | 0.5 M, 60 mL | [Cl-].[Zn+2].[Cl-].C1CCOC1
product | 2-chloro-4-(4-chloro-phenyl)-6-cyclopropyl-pyrimidine | 1.12 g, 42% | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C1CC1 | C13H10Cl2N2
